US06603008B1
5-(5-(4-Bromo-3-fluorophenyl)-4-ethyl-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide (Step 4)
To a stirred solution of hexamethyldisilazane (2.5 ml, 11.75 mmol) in tetrahydrofuran (25 ml) was added n-butyllithium (7.5 ml, 11.75 mmol) dropwise at 0° C. under nitrogen. The reaction mixture was stirred at room temperature for 30 min. Then cooled to −78° C., to the mixture was added a solution of 1-(4-bromo-3-fluorophenyl)-1-butanone (2.4 g, 9.79 mmol) in tetrahydrofuran (12 ml) dropwise and stirred at rt for 1 h. Then 1-trifluoroacetylimidazole (1.3 ml, 11.75 mmol) was added to the mixture at same temperature, the mixture was stirred at rt for 5 h. This was quenched by water and the pH was adjusted to pH 4-5, extracted with ethyl acetate. The extracts was dried (MgSO4) and concentrated. This was purified on silica gel eluting with ethyl acetate/hexane (1:20/1:15) to afford 2.7 g (80.9%) as a yellow oil. A mixture of 1-(4-bromo-3-fluorophenyl)-2-ethyl-4,4,4-trifluoro-1,3-butanedione (1.5 g, 4.40 mmol) and 5-hydrazino-2-pyridinesulfonamide hydrochloride (1.28 g, 5.72 mmol) in ethanol (60 ml) was stirred at reflux for 3 h. After cooling, the solvent was removed and the residue was diluted with ethyl acetate, washed with water. The extracts was dried (MgSO4) and concentrated. This was purified on silica gel eluting with ethyl acetate/hexane (1:10/1:5/1:4) to afford 1.64 g (75.6%) of the titled compound as a white amorphous.

reactant | hexamethyldisilazane | 11.75 mmol, 2.5 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 11.75 mmol, 7.5 ml | C(CCC)[Li]
reactant | 1-(4-bromo-3-fluorophenyl)-1-butanone | 9.79 mmol, 2.4 g | BrC1=C(C=C(C=C1)C(CCC)=O)F | C10H10BrFO
reactant | 1-trifluoroacetylimidazole | 11.75 mmol, 1.3 ml | FC(C(=O)N1C=NC=C1)(F)F | C5H3F3N2O
reactant | 1-(4-bromo-3-fluorophenyl)-2-ethyl-4,4,4-trifluoro-1,3-butanedione | 4.40 mmol, 1.5 g | BrC1=C(C=C(C=C1)C(C(C(C(F)(F)F)=O)CC)=O)F | C12H9BrF4O2
reactant | 5-hydrazino-2-pyridinesulfonamide hydrochloride | 5.72 mmol, 1.28 g | Cl.N(N)C=1C=CC(=NC1)S(=O)(=O)N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-(5-(4-Bromo-3-fluorophenyl)-4-ethyl-3-trifluoromethyl-1H-pyrazol-1-yl)-2-pyridinesulfonamide | 1.64 g, 75.6% | BrC1=C(C=C(C=C1)C1=C(C(=NN1C=1C=CC(=NC1)S(=O)(=O)N)C(F)(F)F)CC)F | C17H13BrF4N4O2S
